US08975254B2
b) (S)—N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-isopropyl-1,2,4-oxadiazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.168 g, 0.64 mmol), 3-isopropyl-1,2,4-oxadiazole-5-carboxylic acid (0.1 g, 0.64 mmol), HOBt (0.13 g, 0.96 mmol), DIPEA (0.335 mL, 1.92 mmol) and EDCI (0.184 g, 0.96 mmol) using DMF as solvent using the method of Example 34(d). Yield of the title compound 5 mg. 1H NMR (400 MHz; MeOD): δ 1.27 (d, 3H), 1.36 (d, 6H), 3.16 (m, 1H), 4.39 (m, 2H), 4.58 (m, 1H), 6.80 (d, 1H), 7.62 (m, 2H), 7.72 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 0.64 mmol, 0.168 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F)C | C13H12F2N4
reactant | 3-isopropyl-1,2,4-oxadiazole-5-carboxylic acid | 0.64 mmol, 0.1 g | C(C)(C)C1=NOC(=N1)C(=O)O | C6H8N2O3
reactant | HOBt | 0.96 mmol, 0.13 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.92 mmol, 0.335 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.96 mmol, 0.184 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-isopropyl-1,2,4-oxadiazole-5-carboxamide | 5 mg | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C(C)C)F | C19H18F2N6O2
